US07947689B2
2-(5-Methyl-furan-2-yl)-ethylamine
To a solution of the amine C (1 mol) in CH2Cl2 (approx. 10 ml per 1 g of the starting compound) triethylamine (1.1 mol) and acetic anhydride (1.2 mol) were added. The reaction mixture is stirred at room temperature for 1 h and concentrated on rotary evaporator. The residue is triturated with hexane, filtered, washed with hexane to give a crystalline compound in good yields.

reactant | triethylamine | 1.1 mol | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.2 mol | C(C)(=O)OC(C)=O | C4H6O3
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(5-Methyl-furan-2-yl)-ethylamine | CC1=CC=C(O1)CCN | C7H11NO
